US08258097B2
(S)-2-(4-Benzyloxy-3-methylcarbamoyloxy-phenyl)-1-methoxycarbonyl-ethyl-ammonium chloride (0.2 g, 0.506 mmol) was suspended in dichloromethane (20 ml), then triethylamine (0.068 g, 0.678 mmol) was added, followed by the addition of (S)-2-benzyloxycarbonylamino-3-(3,4-bis-benzyloxy-phenyl)-propionic acid (0.31 g, 0.678 mmol) [see German patent DE 2121187] and HOBt (0.092 g, 0.678 mmol). The mixture was stirred at room temperature for 20 min. EDC (0.130 g, 0.678 mmol) was added. The stirring was continued overnight. The mixture was washed with sodium bicarbonate, dried over sodium sulfate. After removal of the solvent, the residue was purified by silica gel chromatography eluting with ethyl acetate/dichloromethane (1:2). (S)-2-[(S)-2-benzyloxycarbonylamino-3-(3,4-bis-benzyloxy-phenyl)-propionylamino]-3-(4-benzyloxy-3-methylcarbamoyloxy-phenyl)-propionic acid methyl ester was obtained as a white solid, 0.43 g. 1H NMR (400 MHz, CDCl3) 2.62 (d, J=4.6 Hz, 3H), 2.88-3.00 (m, 3H), 3.35 (s, 1H), 3.56 (s, 3H), 4.24-4.30 (m, 1H), 4.43-4.49 (m, 1H), 4.95 (m, 2H), 5.06 (m, 6H), 6.80 (m, 1H), 6.92-7.09 (m, 5H), 7.23-7.45 (m, 21H), 7.59 (m, 1H), 8.46 (d, J=7.3 Hz, 1H).

reactant | (S)-2-(4-Benzyloxy-3-methylcarbamoyloxy-phenyl)-1-methoxycarbonyl-ethyl-ammonium chloride | 0.506 mmol, 0.2 g | [Cl-].C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C[C@@H](C(=O)OC)[NH3+])OC(NC)=O
reactant | triethylamine | 0.678 mmol, 0.068 g | C(C)N(CC)CC | C6H15N
reactant | (S)-2-benzyloxycarbonylamino-3-(3,4-bis-benzyloxy-phenyl)-propionic acid | 0.678 mmol, 0.31 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C31H29NO6
reactant | HOBt | 0.678 mmol, 0.092 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.678 mmol, 0.130 g
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-2-[(S)-2-benzyloxycarbonylamino-3-(3,4-bis-benzyloxy-phenyl)-propionylamino]-3-(4-benzyloxy-3-methylcarbamoyloxy-phenyl)-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC(NC)=O)NC([C@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O)=O | C50H49N3O10
